Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Cornary angiogram with PTCA/stent of LAD and D1 using Syergy 
(drug-eluting) stents

 
History of Present Illness:
Mr. ___ is a ___ old  with long-standing history CAD,
remote PCI with DES to distal RCA ___, aortic stenosis, S/P 
AVR
with bioprosthetic valve ___, high-grade right carotid artery
stenosis status post CEA ___ and HLD presents with 2 days of
intermittent chest discomfort.

Patient had initial episode of chest pain ___ morning while
on his daily 2 mile walk. He described this as severe,
substernal, burning pain without radiation which last for 5
minutes.  No associated symptoms of shortness of breath or
dizziness.  He was able to complete his exercise routine and the
pain subsided when he got home and rested. He again had chest
pain that evening though with less activity and less severe. 
Yesterday morning, he was able to do his exercises at home
without discomfort including stretches and some push-ups. While
walking to a neighborhood restaurant later in the night, he
experienced similar chest discomfort that lasted about 5 
minutes.
Not as intense as the initial episode on ___, but burning
without radiation. It improved after sitting at dinner, then
reoccurred when walking home. This resolved with rest. Because 
of
this pain, he call his cardiologist office this AM who
recommended he come to the ER for further evaluation. 

When he arrived to the ER, he had some low-volume chest pain 
with
no associated shortness of breath which resolved when he rested.
Otherwise, he had no other acute complaints.

 
Past Medical History:
Hx for CAD, angina, +ve stress test
-___ cath showing Cx did have a mid tubular 40% stenosis and
RCA had a distal 90% stenosis. There was collateral flow from 
LAD
to the right PDA. RCA was treated with DES(Cypher).

Progressive aortic stenosis
- AVR ___ severe aortic senosis with a #27 ___
Magna valve  Cath at the time of his AVR with a 25% proximal LAD
lesion, 40% mid Cx lesion. Atrial fibrillation was a diagnosis
that occurred in the postoperative period initially on amio and
coumadin.
Syncope prior to AVR.

Hypercholesterolemia 
KIDNEY DISEASE - CHRONIC STAGE III (MODERATE, EGFR ___ ML/MIN) 

h/o SYNCOPE / COLLAPSE 
Bradycardia 
H/o ATRIAL FIBRILLATION 
Hypertension, essential 
Vitamin D deficiency 
S/P angioplasty with stent 
Carotid stenosis, right 
Cerebrovascular disease 
History of CEA (carotid endarterectomy) 
Thrombocytopenia 

 
Social History:
___
Family History:
CAD/PVD Father 
___ Brother 
___ Brother 
Cancer - ___  Maternal Grandmother 
 
Physical ___:
ADMISSION PHYSICAL EXAMINATION:  
================================
VS: 97.8 PO 144 / 61 51 18 99 RA 
GENERAL: Well-appearing male in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. 
NECK: Supple with no appreciable JVD, carotid bruit on left
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. HSEM at right sternal border. No
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. Symmetry LEs without swelling or pain 
with
palpation.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAMINATION:
===============================
PHYSICAL EXAMINATION:  
24 HR Data (last updated ___ @ 616)
    Temp: 97.7 (Tm 98.3), BP: 119/59 (106-156/47-65), HR: 54
(47-57), RR: 14 (___), O2 sat: 94% (94-100), O2 delivery: Ra,
Wt: 167.33 lb/75.9 kg   

GENERAL: Well-appearing male in NAD. 
HEENT: NCAT. Sclera anicteric. 
NECK: Supple with no appreciable JVD
CARDIAC:  Systolic ejection murmur at right and left sternal
border with some aortic regurgitation. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. Symmetry LEs without swelling or pain 
with
palpation. Small hematoma on right wrist, normal range of 
motion,
no changes in sensation.
SKIN: No stasis dermatitis, ulcers, scars.

 
Pertinent Results:
ADMISSION LABS
====================
___ 10:55AM BLOOD WBC-7.0 RBC-4.57* Hgb-14.4 Hct-41.8 
MCV-92 MCH-31.5 MCHC-34.4 RDW-12.6 RDWSD-41.9 Plt ___
___ 10:55AM BLOOD Neuts-68.7 ___ Monos-9.2 Eos-0.9* 
Baso-0.7 Im ___ AbsNeut-4.79 AbsLymp-1.40 AbsMono-0.64 
AbsEos-0.06 AbsBaso-0.05
___ 10:55AM BLOOD Plt ___
___ 12:45PM BLOOD Glucose-107* UreaN-24* Creat-1.0 Na-142 
K-4.5 Cl-105 HCO3-24 AnGap-13

IMAGING
=====================
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has 80% tubular mid stenosis.
The ___ Diagonal is a large vessel with 50% ___ stenosis.
Circumflex
The Circumflex has mild luminal irregularities.
* Right Coronary Artery
The RCA has a 60% tubular stenosis in the mid segment. There is 
a widely patent stent in the distal segment.

Interventional Details
___ EBU 3.5 guiding catheter provided excellent support. A 
pressure wire was passed into the distal LAD.
Using IV adenosine, nadir FFR was 0.77, so decision made to 
proceed with PCI on the mid segment
stenosis. This was pre-dilated using a 2.;0 mm balloon. 2.5mm x 
24mm Synergy (drug eluting) stent was
then deployed, and post-dilated throughout using a 2.5mm NC 
balloon at high pressure. Good final result
with focal 20% stenosis in mid-distal segment of stent, no 
dissection, and brisk flow.
D1 then crossed with a wire, and stenosis pre-dilated using a 
2.5mm balloon. 2.5mm x 16mm Synergy
stent then deployed at 16 atm. Excellent final result with 0% 
residual stenosis.
Intra-procedural Complications: None

Impressions:
2 vessel CAD.
Successful PTCA/stent of LAD and D1 using Syergy (drug-eluting) 
stents.

___ CXR

The lungs are clear.  There is no focal consolidation, effusion, 
or edema.  
Prosthetic aortic valve is noted.  Cardiomediastinal silhouette 
is otherwise 
within normal limits.  Median sternotomy wires are intact.  No 
acute osseous 
abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary process. 

DISCHARGE LABS
===================
___ 08:15AM BLOOD WBC-5.9 RBC-4.46* Hgb-13.8 Hct-41.4 
MCV-95 MCH-30.9 MCHC-32.5 RDW-12.6 RDWSD-43.9 Plt ___
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-100 UreaN-19 Creat-1.0 Na-139 
K-4.4 Cl-104 HCO3-24 AnGap-11
___ 08:15AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.0 Cholest-116
___ 08:15AM BLOOD Triglyc-74 HDL-51 CHOL/HD-2.3 LDLcalc-___ with long-standing history CAD, remote PCI with DES 
to distal RCA ___, aortic stenosis, AVR with bioprosthetic 
valve now ___ years ago, high-grade right carotid artery stenosis 
status post CEA ___, HLP now presented with 2 days of 
intermittent chest discomfort with activity concerning for 
unstable angina. He underwent cardiac Cath with placement of 
PTCA/stent of LAD and D1 using Syergy on ___. He then remained 
symptom-free.

#CORONARIES: PCI to LAD and first diagonal after positive
pressure wire study of LAD. RCA with 60% stenosis proximal to
previously placed stent which is patent.
#PUMP: LVEF of 55-60%. 
#RHYTHM: Sinus 

ACTIVE ISSUES: 
=================================
#Unstable angina
#CAD
Patient with known CAD with previous RCA DES placed having chest 
pain increasing in frequency and occurring at various levels of
activity concerning for unstable angina. Troponins negative and 
no ischemic changes on EKG. Did have a recent long flight from
___, though not hypoxic and no pleurtic symptoms making PE 
unlikely. Some chest pain on ___ that resolved with rest. He 
underwent cardiac cath significant for LAD with 80% tubular mid 
stenosis and ___ Diagonal with 50% ___ stenosis. He had 
placement of PTCA/stent of LAD and D1 using Syergy. He was 
continued on plavix, aspirin, simvastatin, and metoprolol. Due 
to slower heart rates, his metoprolol was decreased to 12.5mg 
daily from 25mg. He was also enrolled in the EVOLVE Short DAPT 
Study for evaluation of 3-month dual antiplatelet therapy with 
the SYNERGY Stent System.

#Carotid stenosis
Previous history of CEA in ___ on right side. Left-sided 
carotid bruit noted on exam. Denies any symptoms of TIA or 
stroke.
Was continued on asa and statin as above.

# H/O a. fib
Occurred after valve replacement. Had holter monitor in ___ 
without any a.fib. Remained in sinus rhythm while in house on 
metoprolol.

CHRONIC/STABLE ISSUES: 
=================================
# HLD
-Continue simvastatin 20mg 
-Recheck lipids

# Thrombocytopenia
Remained stable during stay.

TRANSITIONAL ISSUES
=================================

NEW MEDICATIONS
=======================
PLAVIX 75MG DAILY

CHANGED MEDICATIONS
=======================
METOPROLOL DECREASED TO 12.5MG DAILY

[]Patient is enrolled in a clinical trial for shorter duration 
DAPT therapy. Length of therapy should be discussed with study 
team and cardiologist
[]Had carotid ultrasound while in house, final read pending at 
time of discharge - please follow up final read. 

#CODE STATUS: Full Code
#CONTACT: ___ (son) ___ (wife out of the 
country for now)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Simvastatin 20 mg PO QPM  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CAD with cath on ___ with PTCA/stent of LAD and D1 using Syergy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You were here because you were having chest pain with activity.

While you were here, you had a cardiac catheterization where you 
were found to have low blood flow through 2 of the vessels in 
your heart, so stents were placed to help improve blood flow. 
You also had an ultrasound of the vessels in your neck.

When you leave, it is important you take all your medications as 
prescribed. It is also important you attend your follow-up 
appointments as listed below.

If you have any more chest pain or tightness, come back to the 
ER immediately or call ___. 

We wish you the best of luck!

Your ___ Care Team
 
Followup Instructions:
___